US08222424B2
A mixture of 5-benzenesulfonyl-8-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester and 5-benzenesulfonyl-7-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester (1 g) is dissolved in 5 mL of tetrahydrofuran-methanol-water (10:10:1) and treated with 0.344 g of potassium carbonate. The reaction mixture is heated at 140° C. for 15 min (microwave irradiation), filtered and concentrated. The residue is purified on reverse phase HPLC to give pure 8-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester MS (m/z): 462 (M+1); and 7-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester MS (m/z): 462 (M+1); both as yellow syrups. Both isomers are separated by HPLC (Chiracel OD-H 250-4.6 mm, flow 1 ml/Min, UV 235 nM, gradient hexane-ethanol 70-30). The retention times are 6.91 min for 8-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester and 10.20 min for 7-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester.

reactant | 5-benzenesulfonyl-8-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N(C=3C=CC(=CC23)C(C2=CC(=C(C=C2)Cl)S(N)(=O)=O)=O)S(=O)(=O)C2=CC=CC=C2)CC1 | C27H24ClN3O7S2
reactant | 5-benzenesulfonyl-7-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)N1CC2=C(N(C=3C=C(C=CC23)C(C2=CC(=C(C=C2)Cl)S(N)(=O)=O)=O)S(=O)(=O)C2=CC=CC=C2)CC1 | C27H24ClN3O7S2
reactant | potassium carbonate | 0.344 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran-methanol water | 5 mL | O1C(CCC1)CO.O
product | 8-(4-chloro-3-sulfamoyl-benzoyl)-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(NC=3C=CC(=CC23)C(C2=CC(=C(C=C2)Cl)S(N)(=O)=O)=O)CC1 | C21H20ClN3O5S
